US08212041B2
5-(3-((7-methoxy-1,5-naphthyridin-4-ylamino)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)isoxazole-3-carboxylic acid
To a solution of ethyl 5-(3-((7-methoxy-1,5-naphthyridin-4-ylamino)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)isoxazole-3-carboxylate (0.045 g, 0.10 mmol) in methanol (1 mL) and water (0.5 mL) was added sodium hydroxide (6M, 0.050 ml, 0.30 mmol). The mixture was stirred at 50° C. for two hours, then was concentrated and diluted with water (2 mL). 2M HCL was added dropwise until precipitation was observed, the tan solid was collected by filtration. The solid was taken up in isopropanol and heated to 100° C. The resulting suspension was cooled to room temperature and filtered to yield the product as a tan solid. MS m/z=418.6 [M+1]+. Calc'd for C19H14N8O4: 418.1.

reactant | ethyl 5-(3-((7-methoxy-1,5-naphthyridin-4-ylamino)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)isoxazole-3-carboxylate | 0.10 mmol, 0.045 g | COC1=CN=C2C(=CC=NC2=C1)NCC1=NN=C2N1N=C(C=C2)C2=CC(=NO2)C(=O)OCC | C21H18N8O4
reactant | sodium hydroxide | 0.30 mmol, 6M, 0.050 ml | [OH-].[Na+]
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 0.5 mL | O | H2O
product | 5-(3-((7-methoxy-1,5-naphthyridin-4-ylamino)methyl)-[1,2,4]triazolo[4,3-b]pyridazin-6-yl)isoxazole-3-carboxylic acid | COC1=CN=C2C(=CC=NC2=C1)NCC1=NN=C2N1N=C(C=C2)C2=CC(=NO2)C(=O)O | C19H14N8O4
